US04783467
A mixture of 3-fluoro-6-nitrotoluene (50.0 g), 1,2,4-triazole (22.2 g) and sodium carbonate (34.0 g) was heated with stirring in dimethylformamide (300 cm3) at 130° for 16 hours. The cooled mixture was then concentrated in vacuo, the residue was acidified to pH1 with 4M hydrochloric acid, and the resulting solution was extracted with chloroform (2×25 cm3) to remove any neutral material. The combined aqueous phases were basified to pH10 with 2.5M sodium hydroxide solution and the mixture was extracted with chloroform (3×250 cm3). The combined and dried (MgSO4) organic extracts were concentrated in vacuo to give a solid which was recrystallised from toluene to give 1-(3-methyl-4-nitrophenyl)-1,2,4-triazole, m.p. 116°-7°.

reactant | 3-fluoro-6-nitrotoluene | 50.0 g | FC=1C=C(C(=CC1)[N+](=O)[O-])C | C7H6FNO2
reactant | 1,2,4-triazole | 22.2 g | N1N=CN=C1 | C2H3N3
reactant | sodium carbonate | 34.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 300 cm3 | CN(C=O)C | C3H7NO
product | 1-(3-methyl-4-nitrophenyl)-1,2,4-triazole | CC=1C=C(C=CC1[N+](=O)[O-])N1N=CN=C1 | C9H8N4O2
